* source 4
V_V1         N000450 0 9
C_C1         N00352 N00472  100n  
V_V6         N00649 0  
+PULSE -2 2 0 1n 1n 5m 10m
V_V2         0 N000901 9
R_R1         N00352 N00472  150k  
R_R2         0 N00916  150k  
X_U1         N00916 N00352 N000450 N000901 N00472 LM741
R_R3         N00649 N00352  150k  
